* voltage sources:

V_set_clk            n_set_clk            0 +1.0000000000000000000000000
V_set_qn             n_set_qn             0 +0.7105211573870033900000000
V_set_q              n_set_q              0 +0.7107004536879331100000000
V_set_x1.a           n_set_x1.a           0 +0.4445192526332148500000000
V_set_x1.an          n_set_x1.an          0 +0.4444734543524713200000000
V_set_x1.v1          n_set_x1.v1          0 +0.0000035827414963602687000
V_set_x1.v2          n_set_x1.v2          0 +0.0000032811306089511620000

* switches:

S_set_clk            n_set_clk            clk                  V_SWITCH_ON 0
S_set_qn             n_set_qn             qn                   V_SWITCH_ON 0
S_set_q              n_set_q              q                    V_SWITCH_ON 0
S_set_x1.a           n_set_x1.a           x1.a                 V_SWITCH_ON 0
S_set_x1.an          n_set_x1.an          x1.an                V_SWITCH_ON 0
S_set_x1.v1          n_set_x1.v1          x1.v1                V_SWITCH_ON 0
S_set_x1.v2          n_set_x1.v2          x1.v2                V_SWITCH_ON 0


V_SET_MASTER V_SWITCH_ON 0 PULSE (0 1 5.2500000000e-09 0 0 1e-15 1e9)

